US06004983
To a solution of 11-(2-bromoethylidene)-6,11-dihydrodibenzo[b,e]thiepine (4.43 g, 0.014 mol, Coll.Czech.Chem.Comm. 52, 1566 (1987)) in N,N-dimethylformamide (75 ml), potassium carbonate (19.3 g, 0.14 mol) and (R)-3-piperidinecarboxylic acid ethyl ester tartrate (6.43 g, 0.0209 mol) were added and the mixture was stirred at 70° C. for 6 h. The reaction mixture was diluted with benzene (300 ml), the solid was filtered off and the filtrate was washed with water (5×80 ml). The benzene solution was dried (MgSO4) and the solvent removed in vacuo. The oily residue (6.83 g) was dissolved in acetone and treated with a solution of oxalic acid in ethanol. The solid was isolated and the crude hydrogen oxalate (5.8 g) was recrystallised from a mixture of 96% ethanol and ether to yield 5.81 g (86%) of (R)-1-(2-(6,11-dihydrodibenzo[b,e]thiepin-11-ylidene)-1-ethyl)-3-piperidinecarboxylic acid ethyl ester hydrogen oxalate.

reactant | 11-(2-bromoethylidene)-6,11-dihydrodibenzo[b,e]thiepine | 0.014 mol, 4.43 g | BrCC=C1C2=C(SCC3=C1C=CC=C3)C=CC=C2 | C16H13BrS
reactant | potassium carbonate | 0.14 mol, 19.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | (R)-3-piperidinecarboxylic acid ethyl ester tartrate | 0.0209 mol, 6.43 g | C(=O)(O)C(O)C(O)C(=O)O.C(C)OC(=O)[C@H]1CNCCC1
solvent | N,N-dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | (R)-1-(2-(6,11-dihydrodibenzo[b,e]thiepin-11-ylidene)-1-ethyl)-3-piperidinecarboxylic acid ethyl ester hydrogen oxalate | 5.81 g, 86% | C(C(=O)O)(=O)O.C(C)OC(=O)[C@H]1CN(CCC1)CC=C1C2=C(SCC3=C1C=CC=C3)C=CC=C2 | InChI=1S/C24H27NO2S.C2H2O4/c1-2-27-24(26)18-9-7-14-25(16-18)15-13-21-20-10-4-3-8-19(20)17-28-23-12-6-5-11-22(21)23;3-1(4)2(5)6/h3-6,8,10-13,18H,2,7,9,14-17H2,1H3;(H,3,4)(H,5,6)/t18-;/m1./s1
